US06884774B2
A solution of oxalyl chloride (2.14 ml) in dichloromethane (80 ml) was cooled to −78° C. in nitrogen atmosphere, and a solution of dimethylsulfoxide (6 ml) in dichloromethane (6 ml) was added slowly and stirred for 10 minutes at −78° C. To the reaction mixture was added a solution of 4′-methoxy-1,1′-bi(cyclohexyl)-4-ol (2.6 g) in dichloromethane (26 ml) slowly to maintain the reaction temperature and stirred for 2.5 hours at −40° C. To the reaction mixture was added triethylamine (12.4 ml) slowly. Then the reaction mixture allowed to warm to room temperature. To the reaction mixture was added ammonium chloride solution and ethyl acetate. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was concentrated under reduced pressure to give 4′-methoxy-1,1′-bi(cyclohexyl)-4-one (1.62 g).

reactant | oxalyl chloride | 2.14 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 6 ml | CS(=O)C | C2H6OS
reactant | 4′-methoxy-1,1′-bi(cyclohexyl)-4-ol | 2.6 g | COC1CCC(CC1)C1CCC(CC1)O | C13H24O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 26 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 12.4 ml | C(C)N(CC)CC | C6H15N
product | 4′-methoxy-1,1′-bi(cyclohexyl)-4-one | 1.62 g | COC1CCC(CC1)C1CCC(CC1)=O | C13H22O2
